US09403831B2
In a pressure tube reactor, 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.22 g, 8.75 mmol) was added, and Pd(dppf)2Cl2 (285 mg, 0.35 mmol) was added, followed by KOAC (2.28 g, 23.3 mmol) and DMF (20 mL). 4-(4-bromo-2-fluorobenzyl)morpholine (1.6 g, 5.83 mmol) was further added, and the mixture was stirred at 85° C. for 13 hours under nitrogen gas. When the reaction was completed, the reaction mixture was extracted two times or more with ethyl acetate and water, and the organic layer was treated with sodium sulfate to remove extra water, followed by concentration under reduced pressure. Column chromatography using 30% ethylacetate/hexane gave 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)morpholine (1.8 g, 5.6 mmol) with a yield of 96%.

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.75 mmol, 2.22 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 4-(4-bromo-2-fluorobenzyl)morpholine | 5.83 mmol, 1.6 g | BrC1=CC(=C(CN2CCOCC2)C=C1)F | C11H13BrFNO
catalyst | Pd(dppf)2Cl2 | 0.35 mmol, 285 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)morpholine | 5.6 mmol, 1.8 g, yield of 96% | FC1=C(CN2CCOCC2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H25BFNO3
